US06395939B1
Synthesis of 4-Phenoxybenzonitrile
4-Bromobenzonitrile (2.5 mmol), phenol (3.5 or 5.0 mmol), Cs2CO3 (3.5 or 5.0 mmol), (CuOTf)2 PhH (0.0625 mmol, 5.0 mol % Cu), ethyl acetate (0.125 mmol, 5.0 mol %), 1-naphthoic acid (3.5 mmol), molecular sieves (625 mg) and toluene (1.5 mL) were added to an oven-dried test tube which was then sealed with a septum, purged with argon, and heated to 110 C under argon until the aryl halide was consumed as determined by GC analysis. Upon cooling at room temperature, dichloromethane was added and the solvent was removed by filtration. The remaining molecular sieves were stirred with another portion of dichloromethane for 1 h at room temperature, and the solvent was removed by filtration. The combined organic phases were washed with 5% aqueous NaOH. The aqueous layer was then extracted three times with dichloromethane and the combined organic layers were washed with brine. The organic layer was dried over Mg2SO4 and concentrated under vacuum to give the crude product. Purification by flash column chromatography (3% EtOAc/hexane) gave the analytically pure product as a clear oil (405 mg, 86% yield). 1H NMR (300 MHz, CDCl3) δ 7.57 (d, J=8.7 Hz, 2H), 7.40 (t, J=7.9Hz, 2H), 7.22 (t, J=7.6Hz, 1H), 7.05 (d, J=7.9Hz, 2H), 6.98 (d, J=8.8 Hz, 2H); 13C NMR (75 MHz, CDCl3) δ 154.6, 133.9, 130.0, 124.9, 120.2, 118.6, 117.7, 105.6; IR (neat): 3068, 2226, 1586, 1483, 1245, 1165 cm−1.

reactant | 4-Bromobenzonitrile | 2.5 mmol | BrC1=CC=C(C#N)C=C1 | C7H4BrN
reactant | phenol | 5.0 mmol | C1(=CC=CC=C1)O | C6H6O
reactant | Cs2CO3 | 5.0 mmol | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1-naphthoic acid | 3.5 mmol | C1(=CC=CC2=CC=CC=C12)C(=O)O | C11H8O2
catalyst | ethyl acetate | 0.125 mmol | C(C)(=O)OCC | C4H8O2
solvent | toluene | 1.5 mL | C1(=CC=CC=C1)C | C7H8
product | 4-Phenoxybenzonitrile | 405 mg, 86% yield | O(C1=CC=CC=C1)C1=CC=C(C#N)C=C1 | C13H9NO
